US06310056B1
Pivaloyloxymethyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylate
To a suspension of 32.5 mg of (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylic acid in a mixture of 10 ml of water and 8 ml of methanol was added 7.8 mg of sodium hydrogen carbonate, and the mixture was stirred at room temperature for 10 minutes to form a solution. Methanol was removed under reduced pressure, and the residue was lyophilized. The lyophilized product was dissolved in 2 ml of dry DMF, 0.03 ml of iodomethyl pivalate was added under the atmosphere of argon at −30° C., and the mixture was stirred for 2 hours during which the temperature was raised up to −10° C. Ethyl acetate was added to the reaction mixture, and the mixture was washed with semi-saturated aqueous saline. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to a total volume of 3 ml. The residue thus obtained was purified by column chromatography on silica gel (chloroform:methanol=30:1-10:1) to give 26.6 mg of the title compound.

reactant | (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylic acid | 32.5 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2N3C(SC2)=CN=C3)C(=O)O)C1=O | C15H15N3O4S
reactant | sodium hydrogen carbonate | 7.8 mg | C(O)([O-])=O.[Na+]
reactant | methanol | 8 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | Pivaloyloxymethyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-(imidazo[5,1-b]thiazol-3-yl)-1-methyl-1-carbapen-2-em-3-carboxylate | 26.6 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C=2N3C(SC2)=CN=C3)C(=O)OCOC(C(C)(C)C)=O)C1=O | C21H25N3O6S
